US04304717
6-(α-Phenoxycarbonyl-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid sodium salt
56 ml. (0.4 moles) of triethylamine are added to a suspension of 42 g. (0.2 moles) of 6-APA in 600 ml. of methylene chloride. Subsequently 430 g. (0.4 moles, 50 ml.) of trimethyl chlorosilane are added to the obtained solution at 10° C., and the mixture is stirred for 60 minutes. Thereafter the mixture is heated to 35° C., 104 g. (0.2 moles) of phenylmalonic acid phenylester pentachlorophenyl ester are added, and subsequently 28 ml. (0.2 moles) of triethylamine are introduced dropwise into the mixture. The reaction mixture is stirred at room temperature for 3 hours, thereafter it is neutralized to pH=7 with 200 ml. of 8% aqueous sodium bi-carbonate solution.

reactant | triethylamine | 0.4 moles | C(C)N(CC)CC | C6H15N
reactant | 6-APA | 0.2 moles | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | trimethyl chlorosilane | 0.4 moles, 50 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | phenylmalonic acid phenylester pentachlorophenyl ester | 0.2 moles | ClC1=C(C(=C(C(=C1OC(C(C(=O)OC1=CC=CC=C1)C1=CC=CC=C1)=O)Cl)Cl)Cl)Cl | C21H11Cl5O4
reactant | triethylamine | 0.2 moles | C(C)N(CC)CC | C6H15N
reactant | sodium bi-carbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(α-Phenoxycarbonyl-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid sodium salt | [Na+].O(C1=CC=CC=C1)C(=O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)[O-])C1=O)C1=CC=CC=C1 | InChI=1S/C23H22N2O6S.Na/c1-23(2)17(21(28)29)25-19(27)16(20(25)32-23)24-18(26)15(13-9-5-3-6-10-13)22(30)31-14-11-7-4-8-12-14;/h3-12,15-17,20H,1-2H3,(H,24,26)(H,28,29);/q;+1/p-1/t15?,16?,17?,20-;/m1./s1
